US08835648B2
1-[4-Chloro-3-(5-fluoro-1H-benzoimidazol-2-yl)-phenyl]-piperidine-4-carboxylic acid hydrochloride
Method 3,4—Step e A mixture of 2-[2-Chloro-5-(4-ethoxycarbonyl-piperidin-1-yl)-phenyl]-5-fluoro-benzoimidazole-1-carboxylic acid tert-butyl ester (0.42 g, 0.84 mmol) in 6N HCl (4 mL) was stirred at room temperature for few minutes and then heated in microwave at 120° C. for 15 minutes. Solvent was removed under vacuum to obtain the title compound in quantitative yield.

reactant | 2-[2-Chloro-5-(4-ethoxycarbonyl-piperidin-1-yl)-phenyl]-5-fluoro-benzoimidazole-1-carboxylic acid tert-butyl ester | 0.84 mmol, 0.42 g | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC(=C2)F)C2=C(C=CC(=C2)N2CCC(CC2)C(=O)OCC)Cl | C26H29ClFN3O4
solvent | HCl | 6N, 4 mL | Cl | ClH
product | 1-[4-Chloro-3-(5-fluoro-1H-benzoimidazol-2-yl)-phenyl]-piperidine-4-carboxylic acid hydrochloride | quantitative yield | Cl.ClC1=C(C=C(C=C1)N1CCC(CC1)C(=O)O)C1=NC2=C(N1)C=CC(=C2)F | InChI=1S/C19H17ClFN3O2.ClH/c20-15-3-2-13(24-7-5-11(6-8-24)19(25)26)10-14(15)18-22-16-4-1-12(21)9-17(16)23-18;/h1-4,9-11H,5-8H2,(H,22,23)(H,25,26);1H
